US09376449B2
To a mixture of 3-(2-aminoethyl)-6-fluoro-5-methoxy-1H-indole-2-carboxylic acid (150 mg) and tetrahydrofuran (1.88 mL) were added diisopropylethylamine (0.204 mL) and difluoroacetic anhydride (0.073 mL), followed by stirring for 3 hours. To the mixture was further added difluoroacetic anhydride (0.073 mL), followed by stirring for 3 hours. To the mixture was added difluoroacetic anhydride (0.073 mL), followed by stirring at room temperature overnight. To the mixture was added a saturated aqueous sodium hydrogen carbonate solution, followed by stirring for 1 hour, and the solvent was evaporated under reduced pressure. To the obtained residue was added water, followed by adjusting it to be weakly acidic by the addition of 1 M hydrochloric acid. This mixture was extracted with ethyl acetate, and the organic layer was washed with saturated brine and then dried over anhydrous sodium sulfate. The insoluble materials were separated by filtration and the filtrate was concentrated under reduced pressure to obtain 3-{2-[(difluoroacetyl)amino]ethyl}-6-fluoro-5-methoxy-1H-indole-2-carboxylic acid (182 mg) as a brown solid.

reactant | 3-(2-aminoethyl)-6-fluoro-5-methoxy-1H-indole-2-carboxylic acid | 150 mg | NCCC1=C(NC2=CC(=C(C=C12)OC)F)C(=O)O | C12H13FN2O3
reactant | diisopropylethylamine | 0.204 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | difluoroacetic anhydride | 0.073 mL | FC(C(=O)OC(C(F)F)=O)F | C4H2F4O3
reactant | difluoroacetic anhydride | 0.073 mL | FC(C(=O)OC(C(F)F)=O)F | C4H2F4O3
reactant | difluoroacetic anhydride | 0.073 mL | FC(C(=O)OC(C(F)F)=O)F | C4H2F4O3
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | tetrahydrofuran | 1.88 mL | O1CCCC1 | C4H8O
product | 3-{2-[(difluoroacetyl)amino]ethyl}-6-fluoro-5-methoxy-1H-indole-2-carboxylic acid | 182 mg | FC(C(=O)NCCC1=C(NC2=CC(=C(C=C12)OC)F)C(=O)O)F | C14H13F3N2O4
